US05686424
Using the procedure described in example 5, treatment of L-proline-L-isoleucine benzylamide (182 mg, 0.57 mmol), with sodium carbonate (60 mg, 0.57 mmol), and 2-bromo-4'-chloroacetophenone (147 mg, 0.63 mmol, 1.0 eq), in methanol (10 mL), provided 237 mg (88%) of L-isoleucine, N-[1-(2-(4-chlorophenyl)-2-oxoethyl)-L-prolyl] benzylamide as a pale yellow oil.

reactant | L-proline L-isoleucine benzylamide | 0.57 mmol, 182 mg | N1[C@H](C(=O)O)CCC1.C(C1=CC=CC=C1)NC([C@@H](N)[C@@H](C)CC)=O
reactant | sodium carbonate | 0.57 mmol, 60 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-bromo-4'-chloroacetophenone | 0.63 mmol, 147 mg, 1.0 eq | BrCC(=O)C1=CC=C(C=C1)Cl | C8H6BrClO
solvent | methanol | 10 mL | CO | CH4O
product | L-isoleucine, N-[1-(2-(4-chlorophenyl)-2-oxoethyl)-L-prolyl] benzylamide | 237 mg, 88% | ClC1=CC=C(C=C1)C(CN1[C@H](C(=O)N(C([C@@H](N)[C@@H](C)CC)=O)CC2=CC=CC=C2)CCC1)=O | C26H32ClN3O3
